US04638000
In 10 ml of 1N aqueous sodium hdyroxide solution is dissolved 0.45 g of 3(R)-[1(S)-ethoxycarbonyl-5-(4-piperidyl)pentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5acetic acid.dihydrobromide, and the solution is allowed to stand at room temperature for 30 minutes. The reaction solution is neutralized with 2 ml of acetic acid and purified by MCI gel column chromatography (water:methanol=2:1). The eluent is concentrated under reduced pressure and the residue is lyophilized to give 0.3 g of 3(R)-[1(S)-carboxy-5-(4-piperidyl)pentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | 3(R)-[1(S)-ethoxycarbonyl-5-(4-piperidyl)pentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5acetic acid.dihydrobromide | 0.45 g | Br.Br.C(C)OC(=O)[C@H](CCCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | sodium | 1N, 10 ml | [Na] | Na
product | 3(R)-[1(S)-carboxy-5-(4-piperidyl)pentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.3 g | C(=O)(O)[C@H](CCCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C22H31N3O5S
